US06433211B1
p-Cyanobenzamide (73.0 g, 0.5 mol) which has a purity of 99% or more and ethanol (657.0 g) were placed in a 2 l-separable flask, and the mixture was allowed to react at 78° C. for 19 hours while a 95% sulfuric acid (51.6 g) was added thereto with stirring. Gas chromatographic analysis revealed that the reaction mixture contained 66.5 g of ethyl p-cyanobenzoate (yield 76%).

reactant | p-Cyanobenzamide | 0.5 mol, 73.0 g | C(#N)C1=CC=C(C(=O)N)C=C1 | C8H6N2O
reactant | sulfuric acid | 51.6 g | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 657.0 g | C(C)O | C2H6O
product | ethyl p-cyanobenzoate | 66.5 g, yield 76% | C(#N)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO2
